US04945098
1-Hexadecyloxy-3-[4-(1-pyridinio)butoxy]-2-methylenepropane methanesulfonate
1-Hexadecyloxy-3-[4-(methanesulfonyloxy)butoxy]-2-methylenepropane (from Preparation 7) (1.6 g) was heated with dry pyridine (50 ml) at 50° C. for 28 hours. Excess pyridine was removed in vacuo. The product was recrystallized from chloroform/acetone.

reactant | 1-Hexadecyloxy-3-[4-(methanesulfonyloxy)butoxy]-2-methylenepropane | 1.6 g | C(CCCCCCCCCCCCCCC)OCC(COCCCCOS(=O)(=O)C)=C | C25H50O5S
reactant | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
product | 1-Hexadecyloxy-3-[4-(1-pyridinio)butoxy]-2-methylenepropane methanesulfonate | CS(=O)(=O)[O-].C(CCCCCCCCCCCCCCC)OCC(COCCCC[N+]1=CC=CC=C1)=C | InChI=1S/C29H52NO2.CH4O3S/c1-3-4-5-6-7-8-9-10-11-12-13-14-15-20-25-31-27-29(2)28-32-26-21-19-24-30-22-17-16-18-23-30;1-5(2,3)4/h16-18,22-23H,2-15,19-21,24-28H2,1H3;1H3,(H,2,3,4)/q+1;/p-1
